US06258829B1
Ethyl 9-(E)-benzylidene-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (1.07 g, 4.40 mmol) and benzaldehyde (583.6 mg, 5.50 mmol) were dissolved in acetic anhydride (2.0 ml), and the solution was mixed with zinc chloride (40.0 mg, 0.30 mmol) at room temperature and then heated under reflux for 36 hours. After cooling, acetic anhydride was evaporated under reduced pressure, and the thus obtained residue was mixed with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:6-1:5) to obtain the title compound (471.4 mg, 33.4%) as pale yellow oil.

reactant | Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 4.40 mmol, 1.07 g | CC1=C(C=C2C(=N1)CCCCC2)C(=O)OCC | C14H19NO2
reactant | benzaldehyde | 5.50 mmol, 583.6 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 0.30 mmol, 40.0 mg | [Cl-].[Zn+2].[Cl-]
product | Ethyl 9-(E)-benzylidene-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 471.4 mg, 33.4% | C(/C1=CC=CC=C1)=C\1/CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C21H23NO2
